US07375226B2
(6-Chloro-3,4-dihydro-1H-benzo[4,5]thieno[2,3-c]pyridin-2-yl)-(2-diethylamino-5-nitro-phenyl)-methanone
The title compound was prepared in analogy to Example 1 using 6-chloro-1,2,3,4-tetrahydro-[1]benzothieno[2,3-c]pyridine [29078-50-0] and 2-(diethylamino)-5-nitro-benzoic acid [727718-14-1]. MS (m/e): 444.1 (M+H+).

reactant | 6-chloro-1,2,3,4-tetrahydro-[1]benzothieno[2,3-c]pyridine | ClC=1C=CC2=C(C1)C1=C(CNCC1)S2 | C11H10ClNS
reactant | 2-(diethylamino)-5-nitro-benzoic acid | C(C)N(C1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-])CC | C11H14N2O4
product | (6-Chloro-3,4-dihydro-1H-benzo[4,5]thieno[2,3-c]pyridin-2-yl)-(2-diethylamino-5-nitro-phenyl)-methanone | ClC=1C=CC2=C(C3=C(CN(CC3)C(=O)C3=C(C=CC(=C3)[N+](=O)[O-])N(CC)CC)S2)C1 | C22H22ClN3O3S
